US07635715B2
Step E: Preparation of N-((4-Hydroxy-2-oxo-6-(trifluoromethyl)-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycine
A solution of 1,1-dimethylethyl N-((4-hydroxy-2-oxo-6-(trifluoromethyl)-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate (500 mg, 1098 μmol) in TFA (4 mL) was stirred at 23° C. After 25 minutes, the reaction was concentrated in vacuo and azeotroped with DCM (2×10 mL). The crude solid was washed with diethyl ether affording 356 mg of N-((4-hydroxy-2-oxo-6-(trifluoromethyl)-2′,3′,5′,6′-tetrahydro-2H-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycine. MS m/e=400.1 (M+H)+. Calculated for C18H16F3NO6 399.09.

reactant | 1,1-dimethylethyl N-((4-hydroxy-2-oxo-6-(trifluoromethyl)-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate | 1098 μmol, 500 mg | OC1=C(C(C2(CCOCC2)C2=CC=C(C=C12)C(F)(F)F)=O)C(=O)NCC(=O)OC(C)(C)C | C22H24F3NO6
solvent | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((4-Hydroxy-2-oxo-6-(trifluoromethyl)-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycine | OC1=C(C(C2(CCOCC2)C2=CC=C(C=C12)C(F)(F)F)=O)C(=O)NCC(=O)O | C18H16F3NO6
